US06107297
i) 6-Hydroxymethyl-2-pyridinecarboxylic acid, methyl ester
A mixture of 2,6-pyridinedicarboxylic acid (10 g) in thionyl chloride (40 ml) with catalytic dimethylformamide was heated at reflux for 4 hours. The mixture was evaporated to dryness and azeotroped with toluene. Toluene (20 ml) was added to the residue followed by methanol (20 ml). The solvent was evaporated and the residue was partitioned between ethyl acetate and aqueous sodium bicarbonate. The organic phase was dried (MgSO4) and evaporated. The residue was dissolved in methanol and sodium borohydride (0.96 g) was added. The mixture was heated at reflux for 2 hours and evaporated. The residue was partitioned between chloroform and water. The organic phase was dried (MgSO4) and evaporated. Purification was by chromatography eluting with 5% methanol in chloroform. Yield 2.76 g.

reactant | 2,6-pyridinedicarboxylic acid | 10 g | N1=C(C=CC=C1C(=O)O)C(=O)O | C7H5NO4
reactant | dimethylformamide | CN(C=O)C | C3H7NO
solvent | thionyl chloride | 40 ml | S(=O)(Cl)Cl | Cl2OS
product | 6-Hydroxymethyl-2-pyridinecarboxylic acid, methyl ester | OCC1=CC=CC(=N1)C(=O)OC | C8H9NO3
